US06482824B1
A solution of t-butyl N-hydroxycarbamate (11.14 g, 84 mmol) in dichloromethane (300 ml) was added dropwise over 25 mins to a stirred mixture of 1-(4-ethoxyphenyl)-2-methyl-pent-1E,3E-diene (8.46 g, 42 mmol) and tetrabutylammonium periodate (32.6 g, 75 mmol) in dichloromethane (300 ml) cooled to 4° C. under nitrogen atmosphere. After stirring for 4 h at 3-4° C. the reaction mixture was washed with 2M aqueous sodium carbonate containing sodium metabisulphite and then twice with water. The dichloromethane solution was dried over magnesium sulphate, filtered and evaporated to an oil (33.1 g). This was purified by chromatography twice on silica eluting with n-hexane: diethyl ether 4:1 to give 2-t-butoxycarbonyl-3,6-dihydro-3,5-dimethyl-6-(4-ethoxyphenyl)-2H-1,2-oxazine as a yellow oil.

reactant | t-butyl N-hydroxycarbamate | 84 mmol, 11.14 g | ONC(OC(C)(C)C)=O | C5H11NO3
reactant | 1-(4-ethoxyphenyl)-2-methyl-pent-1E,3E-diene | 42 mmol, 8.46 g | C(C)OC1=CC=C(C=C1)\C=C(\C=C\C)/C | C14H18O
reactant | tetrabutylammonium periodate | 75 mmol, 32.6 g | I(=O)(=O)(=O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 2-t-butoxycarbonyl-3,6-dihydro-3,5-dimethyl-6-(4-ethoxyphenyl)-2H-1,2-oxazine | C(C)(C)(C)OC(=O)N1OC(C(=CC1C)C)C1=CC=C(C=C1)OCC | C19H27NO4
